data/polar.json
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH2:5]1[CH2:14][CH2:8][NH:19][C:13]2=[N:20][CH2:7][CH2:15][CH2:18][N:16]12.[O:1]=[S:6](=[O:2])([N:12]=[C:11]=[O:17])[c:22]1[cH:9][cH:3][c:21]([CH3:23])[cH:4][cH:10]1>>[O:1]=[S:6](=[O:2])([N-:12][C:11](=[O:17])[N:20]1[CH2:7][CH2:15][CH2:18][N+:16]2=[C:13]1[NH:19][CH2:8][CH2:14][CH2:5]2)[c:22]1[cH:9][cH:3][c:21]([CH3:23])[cH:4][cH:10]1", "epd": [["LP-/Pi+", [16], [13, 16]], ["Pi-/Sigma+", [20, 13], [20, 11]], ["Pi-/LP+", [11, 12], [12]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[N+:1](=[N-:6])=[N-:7].[cH:2]1[c:8]([CH+:20][c:9]2[cH:3][c:12]([F:16])[cH:19][c:13]([F:17])[cH:4]2)[cH:5][c:10]([F:14])[cH:18][c:11]1[F:15]>>[N+:1]([N-:6][CH:20]([c:8]1[cH:2][c:11]([F:15])[cH:18][c:10]([F:14])[cH:5]1)[c:9]1[cH:3][c:12]([F:16])[cH:19][c:13]([F:17])[cH:4]1)#[N:7]", "epd": [["LP-/Pi+", [7], [1, 7]], ["Pi-/Sigma+", [6, 1], [6, 20]]]}
{"reaction_name": "Cyanide addition to an iminium ion", "rsmi": "[C-:4]#[N:6].[CH2:1]=[N+:5]([CH3:2])[CH3:3]>>[CH2:1]([C:4]#[N:6])[N:5]([CH3:2])[CH3:3]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 5], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:6]1[N:16]2[CH2:7][CH2:20][N:10]([CH2:38][c:13]3[cH:22][cH:26][cH:32][cH:27][cH:23]3)[c:30]3[c:14]2[c:29]([cH:17][n:15][cH:18]3)[N:9]([CH2:37][c:12]2[cH:21][cH:25][cH:31][cH:28][cH:24]2)[CH2:19]1.[c:1]1([N+:4](=[O:35])[O-:36])[s:5][cH:2][c:8]([N+:3](=[O:11])[O-:33])[cH:34]1>>[C:1]1([N+:4](=[O:35])[O-:36])=[CH:34][C:8](=[N+:3]([O-:11])[O-:33])[CH:2]([N:15]2[CH:17]=[C:29]3[N:9]([CH2:37][c:12]4[cH:21][cH:25][cH:31][cH:28][cH:24]4)[CH2:19][CH2:6][N+:16]4=[C:14]3[C:30](=[CH:18]2)[N:10]([CH2:38][c:13]2[cH:22][cH:26][cH:32][cH:27][cH:23]2)[CH2:20][CH2:7]4)[S:5]1", "epd": [["LP-/Pi+", [16], [14, 16]], ["Pi-/Pi+", [29, 14], [17, 29]], ["Pi-/Sigma+", [15, 17], [15, 2]], ["Pi-/Pi+", [2, 8], [8, 3]], ["Pi-/LP+", [3, 11], [11]]]}
{"reaction_name": "Paal–Knorr pyrrole formation", "rsmi": "[CH3:1][C:2](=[O:3])[CH:4]([H:10])[CH:5]([H:11])[C:6](=[O:7])[CH3:8].[NH:9]([H:12])[H:13]>>[CH3:1][c:2]1[nH:9][c:6]([CH3:8])[cH:5][cH:4]1.[O:3]([H:10])[H:12].[O:7]([H:11])[H:13]", "epd": [["LP-/Sigma+", [9], [2, 9]], ["Pi-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 10]], ["Sigma-/LP+", [4, 10], [4]], ["LP-/Pi+", [4], [2, 4]], ["Sigma-/LP+", [2, 3], [3]], ["LP-/Sigma+", [3], [3, 12]], ["Sigma-/LP+", [9, 12], [9]], ["LP-/Sigma+", [9], [6, 9]], ["Pi-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 11]], ["Sigma-/LP+", [5, 11], [5]], ["LP-/Pi+", [5], [5, 6]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [7, 13]], ["Sigma-/LP+", [9, 13], [9]]]}
{"reaction_name": "Pyridine SNAr substitution", "rsmi": "[F:1][c:3]1[n:7][cH:2][cH:4][cH:5][cH:8]1.[NH2-:6]>>[F-:1].[cH:2]1[cH:4][cH:5][cH:8][c:3]([NH2:6])[n:7]1", "epd": [["LP-/Sigma+", [6], [3, 6]], ["Sigma-/LP+", [1, 3], [1]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:6](=[O+:18][CH3:17])[c:20]1[cH:13][cH:11][cH:8][cH:12][cH:14]1.[c:1]1([O:5][CH3:9])[c:10]([B-:15]([F:2])([F:3])[F:4])[s:19][cH:7][cH:16]1>>[C:1]1([O:5][CH3:9])=[CH:16][CH:7]([CH:6]([O:18][CH3:17])[c:20]2[cH:13][cH:11][cH:8][cH:12][cH:14]2)[S+:19]=[C:10]1[B-:15]([F:2])([F:3])[F:4]", "epd": [["LP-/Pi+", [19], [10, 19]], ["Pi-/Pi+", [1, 10], [16, 1]], ["Pi-/Sigma+", [7, 16], [7, 6]], ["Pi-/LP+", [6, 18], [18]]]}
{"reaction_name": "Favorskii rearrangement", "rsmi": "[CH2:1]1[CH2:2][CH2:6][CH:4]([H:5])[C:13](=[O:7])[CH:3]1[Cl:10].[H:8][O-:11].[H:9][O-:12]>>[CH2:1]1[CH2:2][CH2:6][CH:4]([H:8])[CH:3]1[C:13](=[O:7])[O-:11].[Cl-:10].[H:5][O:12][H:9]", "epd": [["LP-/Sigma+", [12], [5, 12]], ["Sigma-/LP+", [8, 11], [11]], ["Sigma-/Sigma+", [4, 5], [4, 8]], ["LP-/Sigma+", [11], [11, 13]], ["Sigma-/Sigma+", [4, 13], [3, 4]], ["Sigma-/LP+", [3, 10], [10]]]}
{"reaction_name": "Anomeric rearrangement", "rsmi": "[CH:1]1([O:5][CH3:4])[CH2:2][CH2:7][CH2:3][CH2:6][O:8]1>>[CH+:1]1[CH2:2][CH2:7][CH2:3][CH2:6][O:8]1.[CH3:4][O-:5]", "epd": [["Sigma-/LP+", [1, 5], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:13]([n:5][o:19][n+:18]1[O-:3])[n:11][c:9]([O:15][CH3:10])[n:6][cH:16]2.[cH:2]1[c:17]2[cH:14][cH:23][c:21]([S-:7])[cH:12][c:22]2[cH:8][cH:4][cH:20]1>>[c:1]12[c:13]([n:5][o:19][n+:18]1[O-:3])[N:11]=[C:9]([O:15][CH3:10])[N-:6][CH:16]2[S:7][c:21]1[cH:12][c:22]2[cH:8][cH:4][cH:20][cH:2][c:17]2[cH:14][cH:23]1", "epd": [["LP-/Sigma+", [7], [7, 16]], ["Pi-/LP+", [16, 6], [6]]]}
